US07538231B2
tert-butyl 3-ethyl-5-formyl-4-(6-methoxypyridin-2-yl)-1H-pyrrole-2-carboxylate
Tert-butyl 3-ethyl-5-formyl-4-iodo-1H-pyrrole-2-carboxylate was obtained following the procedures described in Example 1. To a solution of bromo(6-methoxypyridin-2-yl)zinc (0.076 g, 0.30 mmol) in THF (0.6 mL) and N-methylpyrrolidine (0.44 mL) under argon was added Pd(Pt-Bu3)2 (0.002 g, 0.0032 mmol) and tert-butyl 3-ethyl-5-formyl-4-iodo-1H-pyrrole-2-carboxylate (0.070 g, 0.20 mmol). The reaction was heated to 100° C. and refluxed for 20 h under argon. After cooling to ambient temperature, the reaction was filtered through a pad of silica gel and concentrated. The resultant residue purified by normal phase flash chromatography (5-15% ethyl acetate/hexanes). Proton NMR for the product was consistent with the title compound. 1H NMR (500 MHz, CDCl3) δ 9.86 (s, 1H); 7.66 (t, J=7.8 Hz, 1H); 7.02 (d, J=7.1 Hz, 1H); 6.76 (d, J=8.3 Hz, 1H); 3.95 (s, 3H); 2.90 (q, J=7.3 Hz, 2H); 1.61 (s, 9H); 1.23 (t, J=7.3 Hz, 3H). HRMS (ES) exact mass calculated for C18H23N2O4 (M+H+): 331.1656. Found 331.1656.

reactant | bromo(6-methoxypyridin-2-yl)zinc | 0.30 mmol, 0.076 g | Br[Zn]C1=NC(=CC=C1)OC
reactant | tert-butyl 3-ethyl-5-formyl-4-iodo-1H-pyrrole-2-carboxylate | 0.20 mmol, 0.070 g | C(C)C1=C(NC(=C1I)C=O)C(=O)OC(C)(C)C | C12H16INO3
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | N-methylpyrrolidine | 0.44 mL | CN1CCCC1 | C5H11N
catalyst | Pd(Pt-Bu3)2 | 0.0032 mmol, 0.002 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-butyl 3-ethyl-5-formyl-4-(6-methoxypyridin-2-yl)-1H-pyrrole-2-carboxylate | C(C)C1=C(NC(=C1C1=NC(=CC=C1)OC)C=O)C(=O)OC(C)(C)C | C18H22N2O4
